US05283361
D. 1-[(2-(4-fluorophenylthio)phenyl]-3-bromoprop-1-ene
To 1-tetrahydropyranyloxy-1-[2-(4-fluorophenylthio)phenyl]prop-2-ene (2.71 g; 7.87 mmol) in 20 ml of diethyl ether under nitrogen cooled in an ice bath, was added concentrated HBr and the mixture stirred at 0° C. for one hour. The ice bath was removed and the reaction mixture stirred at room temperature overnight. The reaction mixture was poured into water and extracted twice with hexane. The organics were collected and washed with water and then brine and dried over MgSO4 and concentrated to afford the subtitle compound.

reactant | 1-tetrahydropyranyloxy-1-[2-(4-fluorophenylthio)phenyl]prop-2-ene | 7.87 mmol, 2.71 g | O1C(CCCC1)OC(C=C)C1=C(C=CC=C1)SC1=CC=C(C=C1)F | C20H21FO2S
reactant | HBr | Br | BrH
solvent | diethyl ether | 20 ml | C(C)OCC | C4H10O
product | (2-(4-fluorophenylthio)phenyl]-3-bromoprop-1-ene | FC1=CC=C(C=C1)SC1=C(C=CC=C1)C=CCBr | C15H12BrFS
